US08202856B2
Step 1: Ethyl 5-cyclopentyl-1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate
DBU (2.99 ml; 20.06 mmol; 1.10 eq.) was dissolved in DMF (25 ml) and put under nitrogen atmosphere. 3-Cyclopentyl-3-oxo-propionic acid ethyl ester (Pharmacore, 3.695 g; 20.06 mmol; 1.10 eq.) was added to the mixture and it was stirred for 15 min. Then a solution of 1-azido-2-fluorobenzene, prepared according to Platz, M. S. et al. J. Org. Chem. 1989, 54, 5938-5945, (2.5 g; 18.23 mmol; 1 eq.) in DMF (5 mL) was added dropwise to the solution at room temperature. The mixture was stirred at 90° C. for 2 hours. Water (50 mL) was added to the cooled reaction mixture and the aqueous layer was extracted with EtOAc (3×50 mL). Combined organics were washed with water and brine, dried over MgSO4 and concentrated under vacuum affording the title compound as a yellow oil. It was used in the next step without further purification. LC/MS (Method B): 304.2 (M+H)+.

reactant | DBU | 20.06 mmol, 2.99 ml, 1.10 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-Cyclopentyl-3-oxo-propionic acid ethyl ester | 20.06 mmol, 3.695 g, 1.10 eq. | C(C)OC(CC(=O)C1CCCC1)=O | C10H16O3
reactant | 1-azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | Water | 50 mL | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 5-cyclopentyl-1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate | C1(CCCC1)C1=C(N=NN1C1=C(C=CC=C1)F)C(=O)OCC | C16H18FN3O2
